** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/testbench/tb_strongarm_comp.sch
**.subckt tb_strongarm_comp
V_VDD vdd 0 3.3
V_VP vin_p 0 pwl(0 1.6525 10n 1.6525 10.1n 1.6475 20n 1.6475)
V_VN vin_n 0 1.65
V_RST rst_latch 0 pulse(0 3.3 1n 100p 100p 4n 10n)
x1 vin_p vin_n rst_latch vdd 0 out_p out_n comp_done strongarm_comp
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.control
save v(vin_p) v(vin_n) v(rst_latch) v(out_p) v(out_n) v(comp_done)
tran 10p 30n
set filetype=ascii
write tb_strongarm_comp.raw
quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  sar_adc/blocks/comparator/strongarm_comp.sym # of pins=8
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp.sch
.subckt strongarm_comp vin_p vin_n rst_latch vdd vss out_p out_n comp_done
*.ipin vin_p
*.ipin vin_n
*.ipin rst_latch
*.iopin vdd
*.iopin vss
*.opin out_p
*.opin out_n
*.opin comp_done
x_core vin_p vin_n rst_latch vdd vss raw_p raw_n strongarm_comp_core
x_inv_p raw_p out_p vdd vss comp_inv_3v3
x_inv_n raw_n out_n vdd vss comp_inv_3v3
x_done_xor out_p out_n comp_done vdd vss comp_xor_fast
.ends


* expanding   symbol:  sar_adc/blocks/comparator/strongarm_comp_core.sym # of pins=7
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp_core.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp_core.sch
.subckt strongarm_comp_core vin_p vin_n rst_latch vdd vss out_p out_n
*.ipin vin_p
*.ipin vin_n
*.ipin rst_latch
*.iopin vdd
*.iopin vss
*.opin out_p
*.opin out_n
XMtail net_tail rst_latch vss vss nfet_03v3 L=0.28u W=6.00u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 fn_p vin_p net_tail vss nfet_03v3 L=0.28u W=4.20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 fn_n vin_n net_tail vss nfet_03v3 L=0.28u W=4.20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 out_p out_n fn_p vss nfet_03v3 L=0.28u W=2.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 out_n out_p fn_n vss nfet_03v3 L=0.28u W=2.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 out_p out_n vdd vdd pfet_03v3 L=0.28u W=3.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out_n out_p vdd vdd pfet_03v3 L=0.28u W=3.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 out_p rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 out_n rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 fn_p rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 fn_n rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/comparator/comp_inv_3v3.sym # of pins=4
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/comp_inv_3v3.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/comp_inv_3v3.sch
.subckt comp_inv_3v3 vi vo vdd vss
*.ipin vi
*.opin vo
*.iopin vdd
*.iopin vss
XM2 vo vi vdd vdd pfet_03v3 L=0.28u W=0.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 vo vi vss vss nfet_03v3 L=0.28u W=0.42u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  sar_adc/blocks/comparator/comp_xor_fast.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/comp_xor_fast.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/comp_xor_fast.sch
.subckt comp_xor_fast a b y vdd vss
*.ipin a
*.ipin b
*.opin y
*.iopin vdd
*.iopin vss
x1 vdd vss a nab b async_nand2
x2 vdd vss a a_nab nab async_nand2
x3 vdd vss b b_nab nab async_nand2
x4 vdd vss a_nab y b_nab async_nand2
.ends


* expanding   symbol:  sar_adc/blocks/async_sar/async_nand2.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/async_sar/async_nand2.sch
.subckt async_nand2 vdd vss input_A output input_B
*.ipin input_A
*.ipin input_B
*.opin output
*.iopin vdd
*.iopin vss
XM2 net1 input_B vss vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 output input_A vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 output input_B vdd vdd pfet_03v3 L=0.28u W=1.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 output input_A net1 vss nfet_03v3 L=0.28u W=0.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
