** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/testbench/tb_strongarm_comp_core.sch
**.subckt tb_strongarm_comp_core
V_VDD vdd 0 3.3
V_VP vin_p 0 pwl(0 0.8025 7n 0.8025 7.1n 0.7975 17n 0.7975 17.1n 1.6525 27n 1.6525 27.1n 1.6475 37n 1.6475 37.1n 2.5025 40n
+ 2.5025)
V_VN vin_n 0 pwl(0 0.7975 7n 0.7975 7.1n 0.8025 17n 0.8025 17.1n 1.6475 27n 1.6475 27.1n 1.6525 37n 1.6525 37.1n 2.4975 40n
+ 2.4975)
V_RST rst_latch 0 pulse(0 3.3 1n 100p 100p 4n 10n)
x1 vin_p vin_n rst_latch vdd 0 out_p out_n strongarm_comp_core
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.control
save v(vin_p) v(vin_n) v(rst_latch) v(out_p) v(out_n)
tran 10p 60n
set filetype=ascii
write tb_strongarm_comp_core.raw
quit
.endc

**** end user architecture code
**.ends

* expanding   symbol:  sar_adc/blocks/comparator/strongarm_comp_core.sym # of pins=7
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp_core.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/comparator/strongarm_comp_core.sch
.subckt strongarm_comp_core vin_p vin_n rst_latch vdd vss out_p out_n
*.ipin vin_p
*.ipin vin_n
*.ipin rst_latch
*.iopin vdd
*.iopin vss
*.opin out_p
*.opin out_n
XMtail net_tail rst_latch vss vss nfet_03v3 L=0.28u W=6.00u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 fn_p vin_p net_tail vss nfet_03v3 L=0.28u W=4.20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 fn_n vin_n net_tail vss nfet_03v3 L=0.28u W=4.20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 out_p out_n fn_p vss nfet_03v3 L=0.28u W=2.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 out_n out_p fn_n vss nfet_03v3 L=0.28u W=2.80u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 out_p out_n vdd vdd pfet_03v3 L=0.28u W=3.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 out_n out_p vdd vdd pfet_03v3 L=0.28u W=3.50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 out_p rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 out_n rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 fn_p rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 fn_n rst_latch vdd vdd pfet_03v3 L=0.28u W=1.40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
